US07947676B2
1-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}piperidin-4-ol
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and 4-hydroxypiperidine to give the title compound in 25% yield; NMR Spectrum: 1.34-1.37 (m, 2H), 1.66-1.69 (m, 2H), 2.15 (t, 2H), 2.76-2.80 (m, 4H), 4.40 (t, 2H), 5.28 (s, 2H), 7.24 (d, 1H), 7.37 (t, 1H), 7.54-7.58 (m, 2H), 7.87-7.91 (m, 2H), 8.29 (s, 1H), 8.47 (br s, 1H), 8.59 (d, 1H); Mass Spectrum: 496 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 1-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}piperidin-4-ol | 25% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN2CCC(CC2)O | C24H26ClN7O3
